US04539429
1-[2-(4-Benzyloxyphenylamino)phenyl]ethanone (9 g) in 900 ml of ethanol and 90 ml of acetic acid was hydrogenated in the presence of 1 g of 10% palladium-on-carbon catalyst. The product was isolated and recrystallized from acetonitrile to yield 3.6 g of 1-[2-(4-hydroxyphenylamino)phenyl]ethanone, orange solid, m.p. 168°-169° C.

reactant | 1-[2-(4-Benzyloxyphenylamino)phenyl]ethanone | 9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C=CC=C1)C(C)=O | C21H19NO2
solvent | ethanol | 900 ml | C(C)O | C2H6O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | 1-[2-(4-hydroxyphenylamino)phenyl]ethanone | 3.6 g | OC1=CC=C(C=C1)NC1=C(C=CC=C1)C(C)=O | C14H13NO2
